US03984397
A solution of 2-methyl-2,3-methylene-6-[N-(1-cyclopropylethoxy) carbonyl-2-phenylglycyl]aminopenam-3-carboxylic acid (1.88 g.) in formic acid (10 ml.) was stirred for 1 hour at room temperature and the solvent was distilled off under reduced pressure at room temperature. The residue was pulverized by adding ether and fitered. The powder was added to a mixture of acetonitrile (10 ml.) and water (1 ml.) and precipitated crystals were collected by filtration, washed with acetonitrile and dried to give 2-methyl-2,3-methylene-6-(2-phenylglycyl)aminopenam-3-carboxylic acid (0.89 g.), mp 200° to 202°C (dec.).

reactant | 2-methyl-2,3-methylene-6-[N-(1-cyclopropylethoxy) carbonyl-2-phenylglycyl]aminopenam-3-carboxylic acid | 1.88 g | CC12S[C@H]3N(C1(C(=O)O)C2)C(C3NC(C(NC(=O)OC(C)C3CC3)C3=CC=CC=C3)=O)=O | C22H25N3O6S
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | 2-methyl-2,3-methylene-6-(2-phenylglycyl)aminopenam-3-carboxylic acid | 0.89 g | CC12S[C@H]3N(C1(C(=O)O)C2)C(C3NC(C(N)C3=CC=CC=C3)=O)=O | C16H17N3O4S
